US08980877B2
A suspension of (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (100 mg, 0.30 mmol) in DCM (3 ml) was treated with TEA (0.060 ml, 0.49 mmol) and then with EDC (94 mg, 0.49 mmol), HOBt (67 mg, 0.49 mmol) and NH2OTHP (50 mg, 0.43 mmol) following the procedure described in Example 30, Step B, giving (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (36 mg) as a white solid.

reactant | (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 0.30 mmol, 100 mg | C(C)(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C16H15NO5
reactant | EDC | 0.49 mmol, 94 mg
reactant | HOBt | 0.49 mmol, 67 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 0.43 mmol, 50 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 36 mg | C(C)(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C21H24N2O6
